US07335799B2
6.7 7-Hydroxy-2,2,12,12-tetramethyltridecanedioic acid diethyl ester
7-Oxo-2,2,12,12-tetramethyltridecanedioic acid diethyl ester (9.2 g, 25 mmol) was dissolved in methanol (200 mL) and the solution was cooled in an ice-water bath. Sodium borohydride (0.95 g, 25 mmol) was added. After 2 h, another portion of sodium borohydride (0.95 g, 25 mmol) was added and stirring was continued for 2 h. The reaction mixture was hydrolyzed with water (200 mL). The aqueous solution was extracted with dichloromethane (3×150 mL). The combined organic layers were dried over magnesium sulfate and concentrated in vacuo to give the product (8.5 g, 92%) as an oil. 1H NMR (300 MHz, CDCl3/TMS): δ (ppm): 4.11 (q, 4H, J=7.0 Hz), 3.60-3.50 (m, 1H), 1.66-1.32 (m, 11H), 1.24 (pseudo-t, 12H, J=7.0 Hz), 1.15 (s, 12H). 13C NMR (75 MHz, CDCl3/TMS): δ (ppm): 178.0, 71.7, 60.1, 42.1, 40.6, 37.3, 26.0, 25.1, 24.9, 14.2. HRMS (LSIMS, nba): Calcd. for C21H41O3 (MH+): 373.2954, found: 373.2936. HPLC: 88.90% purity.

reactant | 7-Oxo-2,2,12,12-tetramethyltridecanedioic acid diethyl ester | 25 mmol, 9.2 g | C(C)OC(C(CCCCC(CCCCC(C(=O)OCC)(C)C)=O)(C)C)=O | C21H38O5
reactant | Sodium borohydride | 25 mmol, 0.95 g | [BH4-].[Na+]
reactant | sodium borohydride | 25 mmol, 0.95 g | [BH4-].[Na+]
reactant | water | 200 mL | O | H2O
solvent | methanol | 200 mL | CO | CH4O
product | 7-Hydroxy-2,2,12,12-tetramethyltridecanedioic acid diethyl ester | 8.5 g, 92% | C(C)OC(C(CCCCC(CCCCC(C(=O)OCC)(C)C)O)(C)C)=O | C21H40O5
